Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Amoxicillin
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo G0 presenting with RLQ pain for the past 1.5-2 days. The 
pain was sudden in onset, worsening, and constant. She has had 
some mild nausea but no emesis, no fevers/chills, diarrhea, or 
other associated symptoms. She has not used any pain medication 
today and has not required any pain medication in the ED - 
currently the pain is better. 

She does report a history of hemorrhagic cysts and has been to 
the ED once before for this type of pain, although this episode 
is much worse. With every menstrual cycle she typically feels 
some pain from what she presumes are cysts. 
 
Past Medical History:
GynHx: 
- regular cycles on OCPs
- h/o abnormal Paps and colpo, most recent Pap normal

OBHx: G0
MedHx: denies
SurgHx: wisdom tooth extraction
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
On evaluation in emergency room:
Vitals - T:99.2  BP:125/62  HR:64  RR:16
General: NAD, resting comfortably
CV: RRR
Lungs: CTAB
Abdomen: soft, non-distended, moderate TTP with deep palpation 
in
the RLQ, no rebound/guarding
Pelvic: no CMT, no TTP in the left adnexa or the uterus, marked
TTP over the right adnexa, with adnexal fullness on the right
 
Pertinent Results:
___ 02:00PM BLOOD WBC-5.6 RBC-4.43 Hgb-13.1 Hct-37.8 MCV-85 
MCH-29.6 MCHC-34.7 RDW-13.4 Plt ___
___ 02:00PM BLOOD Glucose-84 UreaN-11 Creat-0.8 Na-137 
K-4.3 Cl-106 HCO3-24 AnGap-11
___ 02:00PM BLOOD ALT-10 AST-19 AlkPhos-38 TotBili-0.2
___ 02:00PM BLOOD Lipase-37
___ 02:00PM BLOOD Albumin-4.1

___ pelvic U/S: Right ovarian hemorrhagic cyst measuring 5.6 
x 5.0 x 4.1 cm. Recommend 6 week follow-up pelvic ultrasound to 
assess for interval change. No evidence of current ovarian 
torsion, although intermittent torsion can not be excluded 
sonographically.
 
Brief Hospital Course:
Ms. ___ was admitted for abdominal pain, a hemorrhagic cyst 
on ultrasound, and a concern for torsion given the severity of 
her pain.  She was made NPO and started on IV fluid hydration.  
Her labs and vital signs were normal and without evidence of 
infection or inflammation.  Her pain notably improved on serial 
abdominal exams, which was reassuring.  The final ultrasound 
read did not show evidence of current torsion.  She was 
discharged on hospital day 2 with minimal pain not requiring 
medications, voiding and ambulating and eating a regular diet 
without difficulty.  She was instructed to follow up with Dr. 
___ and was given strict precautions to alert a 
physician if her pain or other concerning symptoms recur.  
 
Medications on Admission:
MVI, OCP
 
Discharge Medications:
MVI, OCP
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right hemorrhagic cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call if you have recurrence of your severe abdominal 
pain, fever, feeling faint/dizzy, or any other concerns.
 
Followup Instructions:
___